US05252538
Dimethylamine (7.5 g, 166.6 mol) is bubbled into a solution of dimethyl 5-(2-chloroethyl)-6-chloro-2,3-pyridinedicarboxylate (20.0 g, 66 mmol) in methanol (400 mL) over three hours. The resulting solution is stirred for 64 hours at room temperature and then four and one-half hours at reflux. After cooling the mixture is concentrated under vacuum and the crude product chromatographed on 250 g silica using 2:1 hexanes:ethyl acetate and then 1:1 hexanes:ethyl acetate as eluant, affording 2.32 g (14%) of dimethyl 1-methyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-5,6-dicarboxylate, which is recrystallized from methylene chloride/hexanes, having a melting point 132°-133° C.

reactant | Dimethylamine | 166.6 mol, 7.5 g | CNC | C2H7N
reactant | dimethyl 5-(2-chloroethyl)-6-chloro-2,3-pyridinedicarboxylate | 66 mmol, 20.0 g | ClCCC=1C=C(C(=NC1Cl)C(=O)OC)C(=O)OC | C11H11Cl2NO4
solvent | methanol | 400 mL | CO | CH4O
product | dimethyl 1-methyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-5,6-dicarboxylate | 2.32 g, 14% | CN1CCC=2C1=NC(=C(C2)C(=O)OC)C(=O)OC | C12H14N2O4
